2104-12-09 12:28:00 Physician Attending Progress Note
Chief Complaint: hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 y/o M s/p BMT for CML [**5-18**] c/b GVHD of skin/gut, who was admitted to
   the [**Hospital Unit Name 10**] on [**12-4**] with RSV bronchiolitis, s/p Synagis.  Did not require
   intubation, O2 wened to NC and returned to BMT floor [**12-7**] on 4L.  Did
   well on floor until last night.  Febrile to 101.4, O2 90% 4L, 95% on
   5L.  Then dropped to high 80s on 5L.  This AM requiring 6L NC to
   maintain sats so transferred back to [**Hospital Unit Name 10**] for further management.
   24 Hour Events:
   - transferred back to [**Hospital Unit Name 10**] this morning as above
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications: Per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-9**] 12:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 93 (93 - 93) bpm
   BP: 116/78(88) {116/78(88) - 116/78(88)} mmHg
   RR: 23 (23 - 23) insp/min
   SpO2: 94%
   Height: 78 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 6L
   SpO2: 94%
   ABG: 7.49/37/62
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   266
   104 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.4 mEq/L
   12 mg/dL
   109 mEq/L
   141
   34
   14
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
   WBC
   10.3
   5.8
   6.8
   Hct
   34.7
   33.5
   33.5
   Plt
   [**Telephone/Fax (3) 3113**]
   Cr
   1.3
   1.1
   1.0
   Glucose
   90
   105
   104
   Other labs: Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: CMV viral load negative
   Sputum cx contaminated
   beta-glucan & galactomannan pending
   Imaging: CXR this morning: ? new retrocardiac infiltrate
   Assessment and Plan
   55 y/o M s/p BMT admitted with RSV infection, now with worsening
   hypoxemia and new retrocardiac infiltrate on chest imaging.
 HYPOXEMIA:  Likely due to new retrocardiac infiltrate with
   superimposed RSV infection.  PE unlikely as negative CTA 2 days ago,
   new fever and Leukocytosis, and has been on DVT prophylaxis throughout
   course
   --Blood cx pending, induced sputum if able
   - treat with vanc/cefepime for hospital-acquired pneumonia
   - f/u beta-glucan and galactomannan although fungal infection unlikely
   given imaging findings
   - check EKG
   -no indication for bronchoscopy at this time but will reassess if no
   improvement or worsening in clinical status
 H/O LEUKEMIA, CHRONIC (CML, CLL, OTHER; CANCER, MALIGNANT NEOPLASM)
   - continue current immunosuppression
   - acyclovir and posaconazole ppx
   -PCP [**Name Initial (PRE) 3158**]
   # Hx cardiomyopathy: cont toprol.  Check EKG as above.
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2104-12-9**] 11:40 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35

2104-12-10 07:13:00 Physician Resident Progress Note
Chief Complaint: PNA with hypoxia
   24 Hour Events:
 MULTI LUMEN - START [**2104-12-9**] 11:40 AM
   Hickman
 CALLED OUT
   - continues on nebulized face mask (FiO2 60%) with sats constant in mid
   90s (unable to maintain sats on 4 L NC as desats to 89%)
   - ID recs: none
   - EKG, CXR ordered for AM
   - fungal studies still pending
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-9**] 04:30 PM
   Cefipime - [**2104-12-10**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-10**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Musculoskeletal: No(t) Joint pain
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2104-12-10**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 92 (78 - 93) bpm
   BP: 121/74(84) {91/45(56) - 127/83(93)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                    330 mL
                                                                    171 mL
   PO:
             TF:
   IVF:
                                                                    330 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    300 mL
   Urine:
                                                                    500 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -170 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   303 K/uL
   12.0 g/dL
   100 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.2 mEq/L
   12 mg/dL
   106 mEq/L
   140 mEq/L
   35.2 %
   12.4 K/uL
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
                            [**2104-12-10**]  05:10 AM
   WBC
   10.3
   5.8
   6.8
   12.4
   Hct
   34.7
   33.5
   33.5
   35.2
   Plt
   [**Telephone/Fax (3) 3174**]03
   Cr
   1.3
   1.1
   1.0
   1.0
   Glucose
   90
   105
   104
   100
   Other labs: Differential-Neuts:92.2 %, Lymph:3.1 %, Mono:3.3 %, Eos:1.3
   %, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 HYPOXEMIA
 .H/O LEUKEMIA, CHRONIC (CML, CLL, OTHER; CANCER, MALIGNANT NEOPLASM)
   Assessment/Plan: 55 yo M with h/o CML s/p MRD allo-SCT c/b GVHD of
   skin/gut on immunosuppression presenting with RSV bronchiolitis now
   complicated by hospital acquired pneumonia.
   1. Hypoxia: due to hospital acquired pneumonia. pCXR with new LLL
   infiltrate, new fever, new leukocytosis. Start on broad spectrum
   antibiotics--Cefepime/Vancomycin for plan 8 day course. Check sputum
   sample if possible.  Supplemental oxygen as needed. No indication for
   retreatment with Synagis--especially given CXR findings.  Blood
   cultures done overnight with fever.  Pulmonary toilet, continue
   standing nebulizer treatments.  Had CTA negative for PE on [**12-5**]--given
   CXR findings, will not repeat study. Check ECG.
   2. CML s/p transplant and GVHD: continue immunosuppression as per BMT
   team with prednisone, neoral and cellcept.  Dexamethasone s/s for oral
   GVHD. Continue current prophylactic agents with posaconazole and
   acyclovir. Received inhaled pentamidine as outpatient.  Picture not
   consistent with PCP. [**Name Initial (NameIs) 3160**]/galactomannan pending, but given
   posaconazole prophylaxis, unlikely aspergillus pneumonia. Continue
   ursodiol.
   3. Cardiomyopathy: continue outpatient metoprolol XL. Unlikely that his
   hypoxia is related to ACS. ECG pending.
   4. FEN: cardiac diet, follow/replete electrolytes, continue standing
   magnesium repletion.
   ICU Care
   Nutrition: Regular diet heart healthy
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2104-12-9**] 11:40 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2104-12-11 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2104-12-10**] 11:00 AM
   - On 50% high flow mask all day yesterday with O2 sat in low 90's
   - ID recs- vanco trough this AM
   - No new BMT recs
   - No abnormalities on EKG
   - Gave just 100mg Toprol XL instead of 150 yesterday due to SBP in
   100's
   Patient denies chest pain or dyspnea. Reports no fever or chills. Had a
   dry acking cough occasionally loose, but non-productive. He has been
   unable to provide a sputum sample. He is generally comfortable and has
   been ambulatory in his room without difficulty.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Cefipime - [**2104-12-11**] 04:00 AM
   Vancomycin - [**2104-12-11**] 07:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-11**] 07:39 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-11**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 87 (78 - 106) bpm
   BP: 110/80(87) {91/55(65) - 121/81(90)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                  1,280 mL
                                                                    331 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                    740 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    300 mL
   Urine:
                                                                    950 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    330 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: High flow neb (50% by face mask)
   SpO2: 92%
   Physical Examination
   GEN: NAD, patient has a mask on
   HEENT: AT/NC, PERRL, EOMI, oral mucosa moist
   NECK: Supple, no masses
   PULM: Crackles from base to mid-lung bilaterally on posterior lung
   fields that clear slightly with cough
   CARD: Regular, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, non-tender, non-distended
   EXT: no C/C/E
   NEURO: Patient alert and oriented x 3, ambulatory
   Labs / Radiology
   296 K/uL
   11.9 g/dL
   90 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   12 mg/dL
   107 mEq/L
   141 mEq/L
   34.5 %
   11.4 K/uL
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
                            [**2104-12-10**]  05:10 AM
                             [**2104-12-11**]  06:02 AM
   WBC
   10.3
   5.8
   6.8
   12.4
   11.4
   Hct
   34.7
   33.5
   33.5
   35.2
   34.5
   Plt
   [**Telephone/Fax (3) 3174**]03
   296
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   Glucose
   90
   105
   104
   100
   90
   Other labs: Differential-Neuts:92.2 %, Lymph:3.1 %, Mono:3.3 %, Eos:1.3
   %, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   55 yo M with h/o CML s/p MRD allo-SCT c/b GVHD of skin/gut on
   immunosuppression presenting with RSV bronchiolitis now complicated by
   hospital acquired pneumonia.
   1. Hypoxia:
   Originally thought to be attributed to RSV bronchiolitis and the
   complicated by hospital acquired pneumonia. Upon representation to ICU
   had CXR with new LLL infiltrate, new fever, new leukocytosis.  Induced
   sputum cx [**12-6**] negative with note of oropharyngeal flora. Patient
   unable to expectorate sputum at this time.
   - Today day is day 3 of 8 Cefepime/Vancomycin.
   - Follow-up blood cultures
   - Supplemental oxygen as needed
   - F/U ID recs, of note patient needs to be contact precautions only and
   does not require neg pressure isolation for his history of RSV.
   - Pulmonary toilet, continue standing nebulizer treatments.
   2. CML s/p transplant and GVHD:
   Received inhaled pentamidine as outpatient.  Picture not consistent
   with PCP. [**Name Initial (NameIs) 3160**]/galactomannan negative [**12-6**].
   - Continue ursodiol.
   - Continue immunosuppression as per BMT team with prednisone, neoral
   and cellcept.
   - Dexamethasone swish and spit for oral GVHD.
   - Continue current prophylactic agents with posaconazole and acyclovir.
   3. Cardiomyopathy:
   Unlikely that his hypoxia is related to ACS. ECG unremarkable
   yesterday.
   - Continue outpatient metoprolol XL.
   4. FEN: Regular diet to optimize patient choices in diet,
   follow/replete electrolytes, continue standing magnesium repletion.
   ICU Care
   Nutrition:
   Regular oral diet
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2104-12-10**] 12:00 AM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Communication:  With patient
   Code status: Full code
   Disposition: To floor today in care of BMT team.

2104-12-11 13:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2104-12-10**] 11:00 AM
   States to feel improved.
   Occasional non-productive cough.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Cefipime - [**2104-12-11**] 04:00 AM
   Vancomycin - [**2104-12-11**] 07:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-11**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-12-11**] 01:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 95 (78 - 106) bpm
   BP: 112/75(84) {91/55(65) - 121/83(90)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                  1,280 mL
                                                                    380 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                    740 mL
                                                                    380 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    300 mL
   Urine:
                                                                    950 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    330 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.9 g/dL
   296 K/uL
   90 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   12 mg/dL
   107 mEq/L
   141 mEq/L
   34.5 %
   11.4 K/uL
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
                            [**2104-12-10**]  05:10 AM
                             [**2104-12-11**]  06:02 AM
   WBC
   10.3
   5.8
   6.8
   12.4
   11.4
   Hct
   34.7
   33.5
   33.5
   35.2
   34.5
   Plt
   [**Telephone/Fax (3) 3174**]03
   296
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   Glucose
   90
   105
   104
   100
   90
   Other labs: Differential-Neuts:92.2 %, Lymph:3.1 %, Mono:3.3 %, Eos:1.3
   %, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   HYPOXEMIA -- attributed to new pneumonia on background of RSV
   infection.   Good clinical response.
   PNEUMONIA (HAP) -- clinical improvement on current regimen.  Doubt OI.
   No indication of bronchoscopy at this time.  Continue current level of
   care.
   RSV infection -- s/p antibody treatment.
   Cough -- attributed to RSV and HAP.  Improving.
   CML s/p SCT c/b GVHD
 continue current level of care.
   NUTRITIONAL SUPPORT
 encourage PO with suppliments.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2104-12-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Transfer to [**Hospital1 **]
   Total time spent: 50 minutes